US04515948
A mixture of 27 g. of 3,5-dihydroxy-4-phenylazo-benzoic acid methyl ester, 250 ml. of glacial acetic acid and 21 g. of acetic anhydride was stirred at 100° C. for 3 hours, complete solution occurring. The resulting solution was evaporated to dryness under reduced pressure. The residue was taken up in methanol and again evaporated to dryness. The residue was recrystallized from dimethylformamide/methanol and there was obtained 3-acetoxy-5-hydroxy-4-phenylazo-benzoic acid methyl ester having a melting point of 162° C.

reactant | 3,5-dihydroxy-4-phenylazo-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)O)N=NC1=CC=CC=C1)O)=O | C14H12N2O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-acetoxy-5-hydroxy-4-phenylazo-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)O)N=NC1=CC=CC=C1)OC(C)=O)=O | C16H14N2O5
